US06916804B2
N-(6-{[2-(acetylamino)ethyl]amino)-2-phenylpyrimidin-4-yl)-2-piperidin-1-ylacetamide (8.47)
N-(6-Chloro-2-phenylpyrimidin-4-yl)-2-piperidin-1-ylacetamide (25 mg) was dissolved in DMSO (1 ml) and N-acetylethylenediamine (78 mg) added. A reflux condenser was fitted and the mixture heated to 130° C. with stirring for 16 hrs. The reaction was cooled to room temperature and the solvent removed in vacuo. Purification via flash chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (95:5, then 93:7 v/v) yielded the title compound (18 mg).

reactant | N-(6-Chloro-2-phenylpyrimidin-4-yl)-2-piperidin-1-ylacetamide | 25 mg | ClC1=CC(=NC(=N1)C1=CC=CC=C1)NC(CN1CCCCC1)=O | C17H19ClN4O
reactant | N-acetylethylenediamine | 78 mg | C(C)(=O)NCCN | C4H10N2O
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | N-(6-{[2-(acetylamino)ethyl]amino)-2-phenylpyrimidin-4-yl)-2-piperidin-1-ylacetamide | 18 mg | C(C)(=O)NCCNC1=CC(=NC(=N1)C1=CC=CC=C1)NC(CN1CCCCC1)=O | C21H28N6O2
